US05817833
5'-Methoxycarbonyl-2'-methylbiphenyl-4-carboxylic acid
A stirred solution of methyl 3-bromo-4-methylbenzoate (2.6 g, 0.011 mole) in dry DMF (20 ml) under argon was treated with 4-boronobenzoic acid (1.85 g, 0.011 mole) and tetrakis (triphenylphosphine) palladium (O) (400 mg), followed by triethylamine (4.68 ml, 0.046 mole). The mixture was heated at 100° C. for 18 hours, then concentrated in vacuo. The residue was treated with ethyl acetate and extracted with 10% NaHCO3 solution. The basic extract was acidified with dil. HCl and extracted with ethyl acetate. The extract was dried (Na2SO4) and concentrated in vacuo to afford the title compound as a light orange solid (2.12 g, 85%).

reactant | methyl 3-bromo-4-methylbenzoate | 0.011 mole, 2.6 g | BrC=1C=C(C(=O)OC)C=CC1C | C9H9BrO2
reactant | 4-boronobenzoic acid | 0.011 mole, 1.85 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | triethylamine | 0.046 mole, 4.68 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | tetrakistriphenylphosphinepalladium | 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5'-Methoxycarbonyl-2'-methylbiphenyl-4-carboxylic acid | 2.12 g, 85% | COC(=O)C=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C16H14O4
